US05132327
(1) 1,8-bis-{(2-(diethylamino)ethyl]amino}anthracene-9,10-dione
A mixture of 5.52 g (0.02 mol) of 1,8-dichloroanthraquinone and 23.2 g (0.2M) 2-(diethylamino)ethylamine is heated under reflux for 3 hours. The reaction product is washed up as described in Example 1 except that the oily residue is only washed with water and then dried to yield 3.63 g of the title compound as the free base in the form of a purple solid, m.p. 103.5°-106.5° C.; λmax (deionised water) (E/cm/M) 236 nm (54940), 542 nm (13200).

reactant | 1,8-dichloroanthraquinone | 0.02 mol, 5.52 g | ClC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | 2-(diethylamino)ethylamine | 0.2M, 23.2 g | C(C)N(CCN)CC | C6H16N2
product | 1,8-bis-{(2-(diethylamino)ethyl]amino}anthracene-9,10-dione | 3.63 g | C(C)N(CCNC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)NCCN(CC)CC)=O)CC | C26H36N4O2
